### PR TITLE
[Merged by Bors] - feat(Topology/ENNReal): `zpow` is continuous

### PR DESCRIPTION
**Pull request by urkud**
Also add some `fun_prop` attrs

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 1]
```diff
@@ -366,19 +366,20 @@ protected theorem continuousAt_mul_const {a b : ℝ≥0∞} (h : a ≠ ∞ ∨ b
...
-    Continuous fun x : ℝ≥0∞ => x / c := by
-  simp_rw [div_eq_mul_inv, continuous_iff_continuousAt]
-  intro x
-  exact ENNReal.continuousAt_mul_const (Or.intro_left _ (inv_ne_top.mpr c_ne_zero))
+    Continuous fun x : ℝ≥0∞ => x / c :=
+  ENNReal.continuous_mul_const <| ENNReal.inv_ne_top.2 c_ne_zero
 
-@[continuity]
+@[continuity, fun_prop]
 theorem continuous_pow (n : ℕ) : Continuous fun a : ℝ≥0∞ => a ^ n := by
```
Comment (urkud) [inline Mathlib/Topology/Instances/ENNReal.lean:383]:
```suggestion
protected theorem continuous_pow (n : ℕ) : Continuous fun a : ℝ≥0∞ => a ^ n := by
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 2]
```diff
@@ -471,6 +472,11 @@ theorem inv_liminf {ι : Sort _} {x : ι → ℝ≥0∞} {l : Filter ι} :
 
 instance : ContinuousInv ℝ≥0∞ := ⟨OrderIso.invENNReal.continuous⟩
 
+@[fun_prop]
+theorem continuous_zpow : ∀ n : ℤ, Continuous (· ^ n : ℝ≥0∞ → ℝ≥0∞)
```
Comment (urkud) [inline Mathlib/Topology/Instances/ENNReal.lean:476]:
```suggestion
protected theorem continuous_zpow : ∀ n : ℤ, Continuous (· ^ n : ℝ≥0∞ → ℝ≥0∞)
```

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
